US07977344B2
2-[(2-Cyclopropylethyl)oxy]-8-(methyloxy)-9-[3-(tetrahydro-2-furanyl)propyl]-9H-purin-6-amine
Prepared similarly to Intermediate 216 from 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 2-(3-bromopropyl)tetrahydrofuran.

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C1(CC1)CCOC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 2-(3-bromopropyl)tetrahydrofuran | BrCCCC1OCCC1 | C7H13BrO
product | 2-[(2-Cyclopropylethyl)oxy]-8-(methyloxy)-9-[3-(tetrahydro-2-furanyl)propyl]-9H-purin-6-amine | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CCCC1OCCC1)OC)N | C18H27N5O3
